US05399578
The starting material can be obtained, for example, as follows: 14.2 g of 4-methyl-2'-carboxybiphenyl (EP 253,310) are dissolved in 60 ml of acetonitrile and 10.7 ml of pyridine and 11.4 ml of trimethylsilylethanol are added. The mixture is treated at 0° with 15.1 g of dicyclohexylcarbodiimide and stirred at this temperature for 3 hours. After this, the reaction mixture is evaporated in a high vacuum, the residue is treated with ether, and dicyclohexylurea is filtered off. After flash chromatography (ethyl acetate/hexane 95:5), 4-methyl-2'-(trimethylsilylethoxycarbonyl)biphenyl is obtained as a slightly yellowish oil. (TLC: ethyl acetate/hexane 95:5) Rf : 0.42. 312 mg of 4-methyl-2'-(trimethylsilylethoxycarbonyl)biphenyl, 178 mg of N-bromosuccinimide, 5 mg of azoisobutyronitrile and 15 ml of carbon tetrachloride are heated to reflux for one hour. After cooling, the mixture is evaporated. Flash chromatography (ethyl acetate/hexane 95:5) yields 4-bromomethyl-2'-(trimethylsilylethoxycarbonyl)biphenyl as a slightly yellowish oil. 1H-NMR (CFCl3): 0 ppm (s, 9H), 0.7 ppm (t, 2H), 4.5 ppm (s, 2H), 7.1-8 ppm aromatics.

reactant | 4-methyl-2'-carboxybiphenyl | 14.2 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C14H12O2
reactant | pyridine | 10.7 ml | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilylethanol | 11.4 ml | C[Si](C)(C)C(C)O | C5H14OSi
reactant | dicyclohexylcarbodiimide | 15.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 4-methyl-2'-(trimethylsilylethoxycarbonyl)biphenyl | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OCC[Si](C)(C)C | C19H24O2Si
